US07829572B2
Preparation of 1,2-difluoro-4-(2-nitroprop-1-enyl)benzene
3,4-difluorobenzaldehyde (54 g, 380 mmol), ammonium acetate (19 g, 247 mmol), and 4 Å molecular sieves (54 g) were combined in nitroethane (810 mL) and heated at reflux for 24 hours. The reaction was filtered, and concentrated in vacuo. The resultant mixture was partitioned between ethyl acetate (500 mL) and water (300 mL). The organic phase was separated, washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was cooled to 4° C. for 2 hours then ethanol (100 mL) was added to give yellow crystals which were collected by filtration. (57.2 g 75.6% yield). 1H NMR (400 MHz, CDCl3) δ 8.0 (s, 1H), 7.15-7.25 (m, 2H), 3.7 (t, 1H), 2.4 (s, 3H).

reactant | 3,4-difluorobenzaldehyde | 380 mmol, 54 g | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | ammonium acetate | 247 mmol, 19 g | C(C)(=O)[O-].[NH4+]
reactant | nitroethane | 810 mL | [N+](=O)([O-])CC | C2H5NO2
product | 1,2-difluoro-4-(2-nitroprop-1-enyl)benzene | 75.6% yield | FC1=C(C=C(C=C1)C=C(C)[N+](=O)[O-])F | C9H7F2NO2
